US05714488
A mixture of 4,4'-dihydroxybenzophenone (12.4 g, 57.9 mmol), 2-chloromethylquinoline (23.4 g, 132 mmol) and cesium carbonate (46.0 g, 141.2 mmol) was stirred in dry DMF (170 mL). After 5 hours, saturated aqueous NaCl was added and the light brown solid formed was collected by filtration and washed with water. The solid was suspended in ether and collected by filtration, resuspended in ethanol and collected again by filtration and dried in vacuo to afford bis(4-(2-quinolylmethoxy)phenyl) ketone (27.3 g, 95%): IR (KBr) 1635, 1600, 1505, 1250 cm-1 ; 1H NMR (300 MHz, DMSO-d6)δ5.48 (s, 4H), 7.22 (d, 4H, J=9 Hz), 7.64 (m, 2H), 7.71 (d, 4H, J=9 Hz), 7.80 (m, 2H), 8.02 (m, 2H), 8.44 (d, 2H, J=8.5 Hz); MS (DCI/NH3) m/e: 497 (M+H)+.

reactant | 4,4'-dihydroxybenzophenone | 57.9 mmol, 12.4 g | OC1=CC=C(C(=O)C2=CC=C(C=C2)O)C=C1 | C13H10O3
reactant | 2-chloromethylquinoline | 132 mmol, 23.4 g | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | cesium carbonate | 141.2 mmol, 46.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | NaCl | [Na+].[Cl-]
solvent | DMF | 170 mL | CN(C)C=O | C3H7NO
product | bis(4-(2-quinolylmethoxy)phenyl) ketone | 27.3 g, 95% | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C33H24N2O3
